US06849625B2
4-(6-chlorobenzofuran-7-ylamino)-6-methoxy-7-(2-pyrrolidin-1-ylethoxy)quinazoline
Diethyl azodicarboxylate (0.101 ml) was added dropwise to a stirred mixture of 4-(6-chlorobenzofuran-7-ylamino)-7-hydroxy-6-methoxyquinazoline (0.1 g), 1-(2-hydroxyethyl)pyrrolidine (0.04 g), triphenylphosphine (0.169 g) and methylene chloride (5 ml) and the reaction mixture was stirred at ambient temperature for 2 hours. The solvent was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixture of methylene chloride and a saturated methanolic ammonia solution as eluent. There was thus obtained the title compound (0.033 g) as a solid; NMR Spectrum: (DMSOd6 and CF3CO2D) 1.9 (m, 2H), 2.1 (m, 2H), 3.2 (m, 2H), 3.65-3.85 (m, 4H), 4.05 (s, 3H), 4.6 (m, 2H), 7.15 (d, 1H), 7.45 (s, 1H), 7.6 (d, 1H), 7.8 (d, 1H), 8.1 (d, 1H), 8.25 (s, 1H), 8.85 (s, 1H); Mass Spectrum: M+H+ 439.

reactant | Diethyl azodicarboxylate | 0.101 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(6-chlorobenzofuran-7-ylamino)-7-hydroxy-6-methoxyquinazoline | 0.1 g | ClC1=C(C2=C(C=CO2)C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)O | C17H12ClN3O3
reactant | 1-(2-hydroxyethyl)pyrrolidine | 0.04 g | OCCN1CCCC1 | C6H13NO
reactant | triphenylphosphine | 0.169 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(6-chlorobenzofuran-7-ylamino)-6-methoxy-7-(2-pyrrolidin-1-ylethoxy)quinazoline | 0.033 g | ClC1=C(C2=C(C=CO2)C=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCC1 | C23H23ClN4O3
